US04188388
2-(2-Hydroxyethyl)-6-(2-chlorophenoxy)-3-pyridazinone
2.4 g sodium are dissolved in 100 ml anhydrous 1-butanol and then 30 g 6-(2-chlorophenoxy)-3-pyridazinone prepared in a manner analogous to Example 1 (M.Pt=182° C.) and the reaction mixture is maintained at 100° C. for 1 hour. 9 g 2-chloroethanol are then introduced without application of heat and then the mixture maintained for 9 hours at reflux temperature. The solvent is removed under reduced pressure, 50 ml aqueous N-sodium hydroxide solution are poured onto the residue and the final product is extracted in diethyl ether.

reactant | sodium | 2.4 g | [Na] | Na
reactant | 6-(2-chlorophenoxy)-3-pyridazinone | 30 g | ClC1=C(OC=2C=CC(NN2)=O)C=CC=C1 | C10H7ClN2O2
reactant | 2-chloroethanol | 9 g | ClCCO | C2H5ClO
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 2-(2-Hydroxyethyl)-6-(2-chlorophenoxy)-3-pyridazinone | OCCN1N=C(C=CC1=O)OC1=C(C=CC=C1)Cl | C12H11ClN2O3
